US06734302B2
Hydrogen chloride gas was passed through a solution of 4-ethoxy-2-isopropoxy-benzonitrile (0.30 g, 1.46 mmol) in absolute ethanol (100 mL) in a pressure tube for 45 min at 0° C. The tube was sealed and stirred at room temperature for 4 d. The pressure was released only after the tube is cooled to 0° C. Evaporation of the solvents and trituration of the residue in diethyl ether gave ethyl 4-ethoxy-2-isopropoxy-benzimidate hydrochloride which was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 4-ethoxy-2-isopropoxy-benzonitrile | 1.46 mmol, 0.30 g | C(C)OC1=CC(=C(C#N)C=C1)OC(C)C | C12H15NO2
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 4-ethoxy-2-isopropoxy-benzimidate hydrochloride | Cl.C(C)OC1=CC(=C(C(OCC)=N)C=C1)OC(C)C | InChI=1S/C14H21NO3.ClH/c1-5-16-11-7-8-12(14(15)17-6-2)13(9-11)18-10(3)4;/h7-10,15H,5-6H2,1-4H3;1H
